US04644005
Ethyl 7-benzoyloxindole-3-carboxylate
To a slurry of 365 mg. of sodium hydride in 8 ml. of dimethylformamide at 0° C. was gradually added 1.0 g. (4.22 mmoles) of 7-benzoyloxindole, and the mixture allowed to stir for 10 minutes in an ice bath. Diethyl carbonate (1.53 g., 12.7 mmoles) was added and the reaction mixture allowed to stir at ice bath temperatures for 3 hours. The mixture was then poured into 200 ml. of ice and water and the resulting precipitate filtered, washed with water and vacuum dried, 940 mg. The crude product was slurried in diethyl ether, filtered and the filtrate extracted with 0.1N aqueous sodium hydroxide solution. The base layer was separated and acidified with hydrochloric acid. The resulting precipitate was filtered and dried, 109 mg., m.p. 134° C. (dec.).

reactant | sodium hydride | [H-].[Na+]
reactant | 7-benzoyloxindole | 4.22 mmoles | C(C1=CC=CC=C1)(=O)C=1C=CC=C2CC(NC12)=O | C15H11NO2
reactant | Diethyl carbonate | 12.7 mmoles, 1.53 g | C(OCC)(OCC)=O | C5H10O3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Ethyl 7-benzoyloxindole-3-carboxylate | C(C1=CC=CC=C1)(=O)C=1C=CC=C2C(C(NC12)=O)C(=O)OCC | C18H15NO4
